US05780472
1-[(5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl-N-(5-ethyl-6-methylpyridin-3-yl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5-ethyl-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C=NC(=C(C1)CC)C)=O | C15H16N2O2
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 85% | C(C)C=1C=C(C=NC1C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C21H28N4O3
